US08003699B2
To a mixture of 10 ml of a 15% aqueous sodium hydroxide solution and 20 ml of toluene were added 1.08 g of trans-2-hydroxycyclohexylamine hydrochloride, 0.05 g of tetrabutylammonium bromide and 0.80 g of 3-methoxy-4-(2-propynyloxy)benzoyl chloride, and the mixture was stirred at room temperature for 2 hours. After the reaction mixture was extracted with ethyl acetate, the organic layer was washed successively with water and an aqueous saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and 1.1 g of N-(trans-2-hydroxycyclohexyl)-3-methoxy-4-(2-propynyloxy)benzamide was obtained.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | trans-2-hydroxycyclohexylamine hydrochloride | 1.08 g | Cl.O[C@H]1[C@@H](CCCC1)N
reactant | 3-methoxy-4-(2-propynyloxy)benzoyl chloride | 0.80 g | COC=1C=C(C(=O)Cl)C=CC1OCC#C | C11H9ClO3
catalyst | tetrabutylammonium bromide | 0.05 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-(trans-2-hydroxycyclohexyl)-3-methoxy-4-(2-propynyloxy)benzamide | 1.1 g | O[C@H]1[C@@H](CCCC1)NC(C1=CC(=C(C=C1)OCC#C)OC)=O | C17H21NO4
